### PR TITLE
[Merged by Bors] - feat(Data/Real): add `ENNReal.toEReal_sub`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/EReal.lean [hunk 1]
```diff
@@ -1053,6 +1053,19 @@ lemma add_sub_cancel_right {a : EReal} {b : Real} : a + b - b = a := by
   · norm_cast; linarith
   · rw [top_add_of_ne_bot (coe_ne_bot b), top_sub_coe]
 
+lemma _root_.ENNReal.toEReal_sub {x y : ℝ≥0∞} (hy_top : y ≠ ∞) (h_le : y ≤ x) :
+    (x - y).toEReal = x.toEReal - y.toEReal := by
+  by_cases hx_top : x = ∞
+  · lift y to ℝ≥0 using hy_top
+    simp only [hx_top, top_sub_coe, EReal.coe_ennreal_top]
+    norm_cast
+  have h_top : x - y ≠ ∞ := by
```
Comment (grunweg) [inline Mathlib/Data/Real/EReal.lean:1062]: You can inline this `have` as `(by simp)`, right?

File: Mathlib/Data/Real/EReal.lean [hunk 2]
```diff
@@ -1053,6 +1053,19 @@ lemma add_sub_cancel_right {a : EReal} {b : Real} : a + b - b = a := by
...
+    simp only [ne_eq, sub_eq_top_iff, hx_top, hy_top, not_false_eq_true, and_true]
+  nth_rw 2 [← ofReal_toReal_eq_iff.mpr hy_top, ← ofReal_toReal_eq_iff.mpr hx_top]
```
Comment (grunweg) [inline Mathlib/Data/Real/EReal.lean:1064]: Can this line and the next somehow be golfed? This *feels* redundant to me. (Perhaps the answer is "no, a better tactic is needed", but it would be nice to think about it.)

**Review by grunweg — COMMENTED** [review]
Just two small comments.

File: Mathlib/Data/Real/EReal.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Data/Real/EReal.lean:1064]: I'll try to golf it now.

**Comment by urkud** [comment]
I golfed the proof by rerouting coercion from `NNReal`s via real numbers. Thanks!
bors d+

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
